Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p trauma, assualt
 
Major Surgical or Invasive Procedure:
ORIF left mandibular angle fracture

 
History of Present Illness:
Patient is a ___ male who
presented to the emergency department after assault.  Patient
was complaining of jaw pain in the emergency department,
where CT scan was taken, which showed left angle displaced
mandibular fracture passing medial to tooth #17.  Patient was
initially evaluated at an outside hospital.  After the CT
scan was performed, the patient was transferred to ___ for management of left angle
mandibular fracture.  Upon evaluation of the patient, patient
was noted to have severe jaw pain, paresthesia of the left
lower lip and left jaw, 1-1.5 cm laceration of the upper lip.
In the emergency department patient was also noted to have
atrial fibrillation for which he received diltiazem, patient
was in sinus rhythm after that.  Given the mandibular
fracture, patient will require a redirection of the
mandibular fracture through transcervical or intraoral
approaches with possible maxillomandibular fixation.
 
Past Medical History:
Prior isolated episode of atrial fibrillation
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, significant 
post operative tenderness,
swelling over L jaw, L periorbital echhymosis
CV: RRR no MRG
PULM: Clear to auscultation b/l, No W/R/R, 
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, no ecchymosis or
abrasions
Ext: No ___ edema, ___ warm, palpable rapid irreg pulse
 
Pertinent Results:
___ 06:38AM BLOOD ___-17.9* RBC-5.23 Hgb-15.8 Hct-46.6 
MCV-89 MCH-30.2 MCHC-33.9 RDW-12.5 RDWSD-40.7 Plt ___
___ 05:17PM BLOOD Glucose-112* UreaN-13 Creat-0.8 Na-140 
K-4.1 Cl-104 HCO3-23 AnGap-17
 
Brief Hospital Course:
Mr. ___ was admitted at a transfer from an outside 
hospital after sustaining facial injuries s/p assault. Patient 
was complaining of jaw pain on presentation at that emergency 
department, where CT scan was taken, which showed left angle 
displaced mandibular fracture passing medial to tooth #17.  
Patient was
initially evaluated at an outside hospital.  After the CT scan 
was performed, the patient was transferred to ___ for management of left angle 
mandibular fracture.  Upon evaluation of the patient, patient 
was noted to have severe jaw pain, paresthesia of the left lower 
lip and left jaw, 1-1.5 cm laceration of the upper lip.

In the emergency department patient was also noted to have 
atrial fibrillation for which he received diltiazem, patient was 
in sinus rhythm after that.  Given the mandibular fracture, 
patient will require a redirection of the
mandibular fracture through transcervical or intraoral 
approaches with possible maxillomandibular fixation.

He was admitted post-operatively and remained hemodynamically 
stable on the floor, tolerated a full liquid diet within hours 
post-operatively, and voided spontaneously. He was out of bed 
without assistance. On post operative day 1, he was seen and 
evaluated by cardiology in the context of his now multiple 
episodes of atrial fibrillation. They recommended initiating 
metoprolol and aspirin and scheduled him for follow up with 
their clinic. Subsequently, he was appropriate for discharge.
 
Medications on Admission:
none
 
Discharge Medications:
1. Cephalexin 500 mg PO Q6H 
RX *cephalexin 250 mg/5 mL 10 mL by mouth every six (6) hours 
Refills:*0
2. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % Rinse 15 mL ORAL twice a day 
Refills:*2
3. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 to 10 mL by mouth every four (4) hours 
Disp #*300 Milliliter Refills:*0
4. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mandibular fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please maintain a full liquid diet for ___ weeks upon discharge 
from the hospital.  Your follow up appointment with Dr. ___ 
will be in 2 weeks at the ___.  Please 
call ___ on ___ to schedule the appointment.  I have 
given the phone numbers to contact you to ___, Dr. ___ 
___.

Please maintain meticulous oral hygiene with twice daily 
brushing and by using the prescribed mouth rinse twice daily.  
Rinse with warm salt water after meals

Please do not smoke while your surgical sites are healing.  
Smoking will significantly affect the healing and affect your 
sinuses.  

Please do not drive while taking narcotic medications as these 
medications can slow your reaction time and be sedating.  If you 
feel you do not need this narcotic medication, then you may take 
tylenol only.

Your wounds are covered with steristrips, they will fall off on 
their own in about two weeks. You have sutures under then skin, 
they will be removed at your follow up visit.  You may shower, 
let the soapy water run over the wound, and pat dry; do not rub. 
Do not soak in the pool or bath until you have been seen in our 
clinic.  

No strenuous activity or heavy lifting greater than 10 lbs for 
the next 6 weeks.  Please maintain a strict non-chew full liquid 
diet for 4 weeks or until advised otherwise by your surgeon.  A 
diet package will be provided to you for helpful ideas of liquid 
meals. 

You have been discharged on antibiotics. For proper treatment of 
your surgical wounds, it is important that you complete the 
entire course of medication as prescribed.

You have stitches in your mouth. These will dissolve on their 
own within ___ weeks.  

Call your doctor of go to the nearest ER for the following:
Fevers ___
Increased pain, redness, swelling of the wound
Drainage, pus from the wound

Contact BMC oral surgery with questions about care of this 
patient at any time ___, ask the operator to page the 
Oral Surgery resident on call)

Please refer to the provided jaw surgery instruction sheet for 
further details regarding post operative care.  
 
Followup Instructions:
___